US07462639B2
5-Methyl-thiophene-2-carboxylic acid[3-(5-ethyl-7,7-dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-amide
5-Methyl-thiophene-2-carboxylic acid[3-(5-ethyl-7,7-dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-amide was prepared using 2-(4-amino-1H-pyrazol-3-yl)-5-ethyl-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one (250 mg, 0.81 mmol) and 5-methylthiophen-2-carboxylic acid (125 mg, 0.89 mmol). The title compound was obtained as yellow powder (166 mg, 47%).

reactant | 2-(4-amino-1H-pyrazol-3-yl)-5-ethyl-7,7-dimethyl-5,7-dihydro-1H-imidazo[4,5-f]indol-6-one | 0.81 mmol, 250 mg | NC=1C(=NNC1)C1=NC=2C(=CC=3C(C(N(C3C2)CC)=O)(C)C)N1 | C16H18N6O
reactant | 5-methylthiophen-2-carboxylic acid | 0.89 mmol, 125 mg | CC1=CC=C(S1)C(=O)O | C6H6O2S
product | 5-Methyl-thiophene-2-carboxylic acid[3-(5-ethyl-7,7-dimethyl-6-oxo-1,5,6,7-tetrahydro-imidazo[4,5-f]indol-2-yl)-1H-pyrazol-4-yl]-amide | C(C)N1C(C(C=2C=C3C(=CC12)N=C(N3)C3=NNC=C3NC(=O)C=3SC(=CC3)C)(C)C)=O | C22H22N6O2S
